US08067445B2
Step 1: 2-{2′-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-5,4′-bis-trifluoromethyl-biphenyl-3-yl}-propionyl chloride
Prepared according to the procedure described in Example 218, Step 3, using the following starting materials: 2-{2′-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-5,4′-bis-trifluoromethyl-biphenyl-3-yl}-propionic acid and oxalyl chloride.

reactant | 2-{2′-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-5,4′-bis-trifluoromethyl-biphenyl-3-yl}-propionic acid | C1(CC1)C(=O)N(CC)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)C(C(=O)O)C | C24H23F6NO3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 2-{2′-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-5,4′-bis-trifluoromethyl-biphenyl-3-yl}-propionyl chloride | C1(CC1)C(=O)N(CC)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)C(C(=O)Cl)C | C24H22ClF6NO2
